US07579469B2
A mixture of 1-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (200 mg, 0.4 mmol), 1-vinyloxybutane (0.26 mL, 2.0 mmol), Pd(OAc)2 (5 mg, 0.02 mmol), 1,3-bis(diphenylphosphino) propane (DPPP) (10.5 mg, 0.03 mmol), K2CO3 (66.34 mg, 0.48 mmol), and water (0.1 mL) in DMF (1 mL) was microwaved for 1 hour at 122° C. After cooling, the mixture was poured into 5 mL of 5% HCl, stirred for 30 minutes and extracted with three 10 mL portions of ethyl acetate. The combined organic layers were washed with 10% aqueous K2CO3 and dried. The residue was purified silica gel chromatography and then by reverse phase HPLC to yield 50 mg (27% yield) of 1-[4-(5-acetyl-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one as white solid.

reactant | 1-[4-(5-bromo-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 0.4 mmol, 200 mg | BrC=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C23H23BrF3NO3
reactant | 1-vinyloxybutane | 2.0 mmol, 0.26 mL | C(=C)OCCCC | C6H12O
reactant | 1,3-bis(diphenylphosphino) propane | 0.03 mmol, 10.5 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | K2CO3 | 0.48 mmol, 66.34 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 5 mL | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.02 mmol, 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 0.1 mL | O | H2O
product | 1-[4-(5-acetyl-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 50 mg, 27% yield | C(C)(=O)C=1C=CC(=C(C1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C25H26F3NO4
